### PR TITLE
Add Erdős Problem 744 (bipartization of colour-critical graphs), link the formal disproof

### LINKED ISSUE #6236: Erdős Problem 744
### What is the Erdős problem?

https://www.erdosproblems.com/744

Let $k$ be a large fixed constant. Let $f_k(n)$ be the minimal $m$ such that there exists a graph $G$ on $n$ vertices with chromatic number $k$, such that every proper subgraph has chromatic number $<k$, and $G$ can be made bipartite by deleting $m$ edges. Is it true that $f_k(n)\to \infty$ as $n\to \infty$? In particular, is it true that $f_4(n) \gg \log n$?

Status: disproved (Rödl–Tuza: $f_k(n) = \binom{k-1}{2}$ for all large $n$). A formal proof exists in plby/lean-proofs (`Erdos744.erdos_744`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6236.

### What changed
Adds `FormalConjectures/ErdosProblems/744.lean` with `IsCritical G k` (chromatic number `k`, every proper subgraph has chromatic number `< k`), `bipartizationNumber G` (fewest edges to delete to make `G` bipartite), `f k n` (its minimum over `k`-critical graphs on `Fin n`) and:
- `erdos_744` (`research solved`, `answer(False)`): `f k n → ∞` fails for every `k ≥ 4`.
- `erdos_744.variants.four` (`answer(False)`): `f 4 n ≫ log n` fails.
- `erdos_744.variants.rodl_tuza`: `f k n = (k-1).choose 2` for all large `n` [RoTu85].
- `erdos_744.variants.three`: `f 3 n = 1` for odd `n ≥ 3` (odd cycles).

The first three are linked to plby/lean-proofs `Erdos744.erdos_744` (Codex and GPT-5.6 Sol; single Mathlib-only file), which proves `f (q+1) n = q.choose 2` for `q ≥ 3` and `n ≥ max(2q, 2·C(q,2) - 1)`.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos744.erdos_744` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the three linked statements on top of a renamed copy, same axioms (the definitions of `f` agree by `rfl`):

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph

namespace Bridge744

/-- The two extremal functions agree definitionally. -/
lemma f_eq : Erdos744.f = Erdos744Plby.f := rfl

lemma rodl_tuza : ∀ k : ℕ, 4 ≤ k → ∀ᶠ n : ℕ in atTop, Erdos744.f k n = (k - 1).choose 2 := by
  intro k hk
  obtain ⟨q, rfl⟩ : ∃ q, k = q + 1 := ⟨k - 1, by omega⟩
  filter_upwards [eventually_ge_atTop (Erdos744Plby.threshold q)] with n hn
  rw [f_eq, Erdos744Plby.erdos_744 (by omega) hn]
  simp

theorem erdos_744_rodl_tuza_bridge : type_of% Erdos744.erdos_744.variants.rodl_tuza := rodl_tuza

theorem erdos_744_bridge : type_of% Erdos744.erdos_744 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  have h4 := h 4 le_rfl
  have hev := (tendsto_atTop.1 h4 4).and (rodl_tuza 4 le_rfl)
  obtain ⟨n, hn1, hn2⟩ := hev.exists
  rw [hn2] at hn1
  simp at hn1

theorem erdos_744_four_bridge : type_of% Erdos744.erdos_744.variants.four := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨c, hc, hev⟩
  -- `c log n ≤ 3` eventually contradicts `log n → ∞`
  have hlog : Tendsto (fun n : ℕ => c * Real.log n) atTop atTop :=
    (Real.tendsto_log_atTop.comp tendsto_natCast_atTop_atTop).const_mul_atTop hc
  have h := ((tendsto_atTop.1 hlog 4).and hev).and (rodl_tuza 4 le_rfl)
  obtain ⟨n, ⟨hn1, hn2⟩, hn3⟩ := h.exists
  rw [hn3] at hn2
  simp at hn2
  linarith

end Bridge744
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«744»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/744.lean [hunk 1]
```diff
@@ -0,0 +1,98 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/744.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/744.lean [hunk 2]
```diff
@@ -0,0 +1,98 @@
...
+namespace Erdos744
+
+variable {V : Type*}
+
+/--
+A graph `G` is `k`-critical if it has chromatic number `k` and every proper subgraph has
+chromatic number `< k`.
+-/
+def IsCritical (G : SimpleGraph V) (k : ℕ) : Prop :=
+  G.chromaticNumber = k ∧ ∀ H : G.Subgraph, H < ⊤ → H.coe.chromaticNumber < k
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/744.lean:48]: Erdos744.IsCritical shadows SimpleGraph.IsCritical (Coloring/Vertex.lean) with a different meaning (edge-critical); add under a distinct name there;

File: FormalConjectures/ErdosProblems/744.lean [hunk 3]
```diff
@@ -0,0 +1,98 @@
...
+
+/-- The least number of edges whose deletion makes `G` bipartite. -/
+noncomputable def bipartizationNumber (G : SimpleGraph V) : ℕ :=
+  sInf {m | ∃ E ⊆ G.edgeSet, E.ncard = m ∧ (G.deleteEdges E).IsBipartite}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/744.lean:52]: bipartizationNumber also inline in 23.lean ? perhaps better unify
